US04588828
(trans)-3-(7-Phenyl-1,2-heptadiene-4,6-diynyl)-oxiranemethanol
To a solution of trans-2-butene-1,4-diol (7.57 g, 85.9 mmole) and a catalytic quantity of p-toluenesulfonic acid in 700 ml of dry ether was added dihydropyran (6.73 ml, 71.6 mmole) at the rate of 1.5 ml/hour. After stirring for four days, the reaction mixture was washed with saturated sodium bicarbonate, and the organic layer was separated and dried over sodium sulfate and concentrated in vacuo to afford the crude product which was purified via flash chromatography (LPS-1 silica gel; ether-hexane 1:1) to provide the title compound (5.75 g).

reactant | trans-2-butene-1,4-diol | 85.9 mmole, 7.57 g | C(\C=C\CO)O | C4H8O2
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | dihydropyran | 71.6 mmole, 6.73 ml | O1CCCC=C1 | C5H8O
reactant | ether | 700 ml | CCOCC | C4H10O
product | (trans)-3-(7-Phenyl-1,2-heptadiene-4,6-diynyl)-oxiranemethanol | 5.75 g | C1(=CC=CC=C1)C#CC#CC=C=C[C@H]1[C@@H](O1)CO | C16H12O2
